US08304419B2
Step A: N-{1-cyano-2-[(phenylmethyl)oxy]ethyl}propanamide
Benzyloxyacetaldehyde (3.0 g, 20.0 mmol) was added dropwise to a stirred solution of sodium cyanide (1.22 g, 24.9 mmol) and ammonium chloride (1.58 g, 29.5 mmol) in 25% ammonium hydroxide (9.6 mL). The solution was stirred at RT for 48 h, then extracted with CH2Cl2 (40 mL). The organic extract was washed with brine, dried (Na2SO4) and filtered. Propionic acid (1.5 g, 20.0 mmol), EDC (5.7 g, 30.0 mmol) and DMAP (610 mg, 5 mmol) were added to the filtrate and the solution was stirred for 12 h at RT. Water was added (20 mL) and the organic phase was separated and washed with 1N HCl (20 mL), dried (Na2SO4), filtered and concentrated. The residue was purified by silica gel flash column chromatography (0-50% EtOAc:hexanes) to give the title compound (3.62 g, 78%) as a yellow oil. 1H NMR (400 MHz, CDCl3) δ ppm 7.32-7.43 (m, 5H), 6.09 (br. s., 1H), 5.08-5.13 (m, 1H), 4.59-4.69 (ABq, 2 H), 3.66 (ABq, 2H), 2.25 (qd, 2H), 1.17 (t, 3H). ES-LCMS: m/z 233.0 (M+H).

reactant | Benzyloxyacetaldehyde | 20.0 mmol, 3.0 g | C(C1=CC=CC=C1)OCC=O | C9H10O2
reactant | sodium cyanide | 24.9 mmol, 1.22 g | [C-]#N.[Na+]
reactant | ammonium chloride | 29.5 mmol, 1.58 g | [Cl-].[NH4+]
reactant | Propionic acid | 20.0 mmol, 1.5 g | C(CC)(=O)O | C3H6O2
reactant | EDC | 30.0 mmol, 5.7 g
solvent | ammonium hydroxide | 9.6 mL | [OH-].[NH4+]
catalyst | DMAP | 5 mmol, 610 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | Water | O | H2O
product | N-{1-cyano-2-[(phenylmethyl)oxy]ethyl}propanamide | 3.62 g, 78% | C(#N)C(COCC1=CC=CC=C1)NC(CC)=O | C13H16N2O2
